US05750530
Preparation of 5-(2-dimethylaminoethylthio)-2-furancarboxaldehyde
2-Dimethylaminoethanethiol hydrochloride was suspended in dry DMSO and sodium hydride was added. The reaction mixture was left stirring for 40 minutes before 5-nitro-2-furancarboxaldehyde was added. The reaction mixture was allowed to stir for 30 minutes at room temperature, to give the title compound. This is the starting aldehyde used in the synthesis of compound 5253.

reactant | 2-Dimethylaminoethanethiol hydrochloride | Cl.CN(CCS)C
reactant | sodium hydride | [H-].[Na+]
reactant | 5-nitro-2-furancarboxaldehyde | [N+](=O)([O-])C1=CC=C(O1)C=O | C5H3NO4
solvent | DMSO | CS(=O)C | C2H6OS
product | 5-(2-dimethylaminoethylthio)-2-furancarboxaldehyde | CN(CCSC1=CC=C(O1)C=O)C | C9H13NO2S
